US05624935
2-t-Butyldimethylsilyloxymethyl-1-methyl-1H-imidazo-[4,5-c]pyridine
A procedure similar to that described in Preparation 59 was repeated, except that 7.4 g of 2-t-butyldimethylsilyloxymethyl-1H-imidazo[4,5-c]pyridine (prepared as described in Preparation 71), 1.23 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 2.0 ml of methyl iodide and 200 ml of dimethylformamide were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 3.30 g of the title compound, melting at 93°-95° C.

reactant | 2-t-butyldimethylsilyloxymethyl-1H-imidazo[4,5-c]pyridine | 7.4 g | [Si](C)(C)(C(C)(C)C)OCC=1NC2=C(C=NC=C2)N1 | C13H21N3OSi
reactant | sodium hydride | 1.23 g | [H-].[Na+]
reactant | methyl iodide | 2.0 ml | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-t-Butyldimethylsilyloxymethyl-1-methyl-1H-imidazo-[4,5-c]pyridine | [Si](C)(C)(C(C)(C)C)OCC=1N(C2=C(C=NC=C2)N1)C | C14H23N3OSi
